US03945984
0.3 mol % of sodium salt of caprolactam and 0.3 mol % of the co-catalyst of the Example 13 were dissolved in molten caprolactam. The mixture was heated to 160° - 163°C for 120 minutes. The polymerizate contained almost theoretical equilibrium amount of the polyamide. Similar result was obtained with laurolactam, using the same amount of 1,3,5,5-tetramethyl-2,4,6-piperidine-trione at equal conditions of polymerization.

reactant | sodium | [Na] | Na
reactant | caprolactam | C1(CCCCCN1)=O | C6H11NO
product | laurolactam | C1(CCCCCCCCCCCN1)=O | C12H23NO
